US09301951B2
Intermediate 270d: benzyl 3-(1-amino-3,6,9,12-tetraoxapentadec-14-yn-15-yl)benzoate
Into a 500-mL round-bottom flask, was placed a solution of benzyl 3-(1-azido-3,6,9,12-tetraoxapentadec-14-yn-15-yl)benzoate (23 g, 49.15 mmol, 1.00 equiv) in tetrahydrofuran (200 mL), water (20 mL), triphenylphosphine (25.7 g, 98.09 mmol, 2.00 equiv). The resulting solution was stirred for 3 h at room temperature. The resulting mixture was concentrated under vacuum. The residue was applied onto a silica gel column with dichloromethane:methanol (100:1-50:1). This resulted in 15 g (69%) of benzyl 3-(1-amino-3,6,9,12-tetraoxapentadec-14-yn-15-yl)benzoate as pale-yellow oil.

reactant | benzyl 3-(1-azido-3,6,9,12-tetraoxapentadec-14-yn-15-yl)benzoate | 49.15 mmol, 23 g, 1.00 equiv | N(=[N+]=[N-])CCOCCOCCOCCOCC#CC=1C=C(C(=O)OCC2=CC=CC=C2)C=CC1 | C25H29N3O6
reactant | triphenylphosphine | 98.09 mmol, 25.7 g, 2.00 equiv | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | water | 20 mL | O | H2O
product | benzyl 3-(1-amino-3,6,9,12-tetraoxapentadec-14-yn-15-yl)benzoate | NCCOCCOCCOCCOCC#CC=1C=C(C(=O)OCC2=CC=CC=C2)C=CC1 | C25H31NO6
